US04460580
A solution of 9.6 g of 2,3-dihydro-2,2-dimethyl-6-(2-oxo-propoxy)-4H-1,3-benzoxazin-4-one and 9.37 g of 4-benzyloxy-α-(aminomethyl)benzyl alcohol in 250 ml of methanol is hydrogenated analogously to Example 1 until one equivalent of hydrogen has been taken up. The catalyst is filtered off and, after adding 40 ml of isopropylamine, the solution is refluxed for 1 hour. Evaporation of the reaction mixture yields 4-benzyloxy-α-[N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-1-methyl-ethyl]-aminomethyl-benzyl alcohol in the form of a crystalline mass which can be hydrogenated without further purification.

reactant | 2,3-dihydro-2,2-dimethyl-6-(2-oxo-propoxy)-4H-1,3-benzoxazin-4-one | 9.6 g | CC1(OC2=C(C(N1)=O)C=C(C=C2)OCC(C)=O)C | C13H15NO4
reactant | 4-benzyloxy-α-(aminomethyl)benzyl alcohol | 9.37 g | C(C1=CC=CC=C1)OC1=CC=C(C(CN)O)C=C1 | C15H17NO2
reactant | hydrogen | one equivalent | [H][H] | H2
solvent | methanol | 250 ml | CO | CH4O
product | N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-1-methyl-ethyl]-aminomethyl-benzyl alcohol | C(N)(=O)C=1C=C(OCC(C)NCC(C2=CC=CC=C2)O)C=CC1O | C18H22N2O4
